US04125729
Ethyl α-bromo-α-[p-(p-cyanophenoxy)phenyl]acetate
To a solution of 1.17 g of ethyl[p-(p-cyanophenoxy)phenyl]acetate in 20 ml of carbon tetrachloride is added 0.75 g of N-bromosuccinimide and a drop of 48% HBr. The mixture is stirred and refluxed for 42 hours. The solvent is removed under vacuum to give the product.

reactant | ethyl[p-(p-cyanophenoxy)phenyl]acetate | 1.17 g | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)C#N)=O | C17H15NO3
reactant | N-bromosuccinimide | 0.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HBr | Br | BrH
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl α-bromo-α-[p-(p-cyanophenoxy)phenyl]acetate | BrC(C(=O)OCC)C1=CC=C(C=C1)OC1=CC=C(C=C1)C#N | C17H14BrNO3
